US07678796B2
Pyridazine-4-carboxylic acid ethyl ester
To pyridazine-4-carboxylic acid (1.0 g, 8.1 mmol) in ethanol (10 mL) was added concentrated H2SO4 (4.2 mL) and then heated at reflux for 5 hours. The reaction mixture was cooled, concentrated in vacuo and basified with saturated Na2CO3. After filtration, the aqueous was extracted with ethyl acetate, dried over anhydrous Na2SO4, filtered and concentrated to give the title product as a dark yellow oil (970 mg, 79%).

reactant | pyridazine-4-carboxylic acid | 8.1 mmol, 1.0 g | N1=NC=C(C=C1)C(=O)O | C5H4N2O2
reactant | H2SO4 | 4.2 mL | OS(=O)(=O)O | H2O4S
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | Pyridazine-4-carboxylic acid ethyl ester | 970 mg, 79% | C(C)OC(=O)C1=CN=NC=C1 | C7H8N2O2
